US06977263B2
B. N-tert-Butoxycarbonyl-bis(2-chloroethyl)amine
To a mixture of 17.85 g (100 mmole) of bis(2-chloroethyl)amine hydrochloride and 24.0 g (110 mmole) of di-tert-butyl dicarbonate in 100 ml of dichloromethane was added a solution of 15.3 ml (110 mmole) of trietylamine in 50 ml of dichloromethane dropwise over 30 minutes. The mixture was stirred at room temperature for 24 hours and was poured into water. The organic layer was dried over magnesium sulfate and was filtered. The filtrate was evaporated to give 24 g of an oil, 100% yield: 1H-NMR (300 MHz, CDCl3)δ (TMS) 1.37-1.56 (m, 9H), 3.50-3.62 (m, 8H); MS (ESI) m/e 242 (M+H)+.

reactant | bis(2-chloroethyl)amine hydrochloride | 100 mmole, 17.85 g | Cl.ClCCNCCCl
reactant | di-tert-butyl dicarbonate | 110 mmole, 24.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | trietylamine | 110 mmole, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-tert-Butoxycarbonyl-bis(2-chloroethyl)amine | 24 g, 100% yield | C(C)(C)(C)OC(=O)N(CCCl)CCCl | C9H17Cl2NO2
